US09227901B2
N-((1R,2S)-1-benzyl-6-fluoro-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide
Chlorocyclooctadiene rhodium(I) dimer (0.648 g, 2.63 mmol of Rh), Josiphos SL-J216-2 (1.779 g, 2.77 mmol), and N-(1-benzyl-6-fluoro-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide (93.96 g, 277 mmol) were combined in a metal reactor, and the vessel was inerted with argon. Degassed methanol (940 ml) was added, and the mixture was agitated under 20 psi of argon at 50° C. for 20 min. The vessel was pressurized with 60 psig of hydrogen and agitated at 55° C. for 14 hrs. HPLC analysis indicated complete conversion and 94.7% ee. The mixture was concentrated, and the resulting solid was precipitated from MeOH to yield 86.9 g (yield: 92%) of the title compound.

reactant | Josiphos SL-J216-2 | 2.77 mmol, 1.779 g | C[C@H]([C]1[CH][CH][CH][C]1P(C2=CC=CC3=CC=CC=C32)C4=CC=CC5=CC=CC=C54)PC | C28H25P2
reactant | N-(1-benzyl-6-fluoro-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide | 277 mmol, 93.96 g | C(C1=CC=CC=C1)C1=C(CCC2=CC(=C(C=C12)OC)F)NC(CC)=O | C21H22FNO2
reactant | hydrogen | [H][H] | H2
catalyst | Chlorocyclooctadiene rhodium(I) | [Rh+].ClC1=CC=CCCCC1
solvent | methanol | 940 ml | CO | CH4O
product | N-((1R,2S)-1-benzyl-6-fluoro-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide | 86.9 g, yield: 92% | C(C1=CC=CC=C1)[C@H]1[C@H](CCC2=CC(=C(C=C12)OC)F)NC(CC)=O | C21H24FNO2
